US07465808B2
To a suspension of sodium hydride (104 mg, 7.61 mmol) in DMF (11 mL) was added a solution of 1H-indol-3-yl-acetic acid methyl ester (0.50 g, 2.6 mmol) in DMF (5.0 mL). The mixture was stirred for 1 h followed by addition of methyl iodide (1.1 g, 7.8 mmol). The reaction mixture was stirred for an additional 18 h, quenched, diluted with saturated ammonium chloride (200 mL), and then extracted with diethyl ether (3×100 mL). The combined organic layers were dried with Na2SO4, and the solvent was removed under reduced pressure. The crude residue was purified by flash chromatography (EtOAc/hexanes) giving 100 mg (19%) of (1-methyl-1H-indol-3-yl)-acetic acid methyl ester after purification. HPLC: Rt=8.91 (Method A). MS (ES+): mass calculated for C12H13NO2, 203.09; m/z found 204.09 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.60 (d, J=7.9 Hz, 1H), 7.30 (d, J=8.2 Hz, 1H), 7.23 (t, J=8.2 Hz, 1H), 7.13 (t, 7.4 Hz, 1H), 7.04 (s, 1H), 3.77 (s, 2H), 3.76 (s, 3H), 3.69 (s, 3H).

reactant | sodium hydride | 7.61 mmol, 104 mg | [H-].[Na+]
reactant | 1H-indol-3-yl-acetic acid methyl ester | 2.6 mmol, 0.50 g | COC(CC1=CNC2=CC=CC=C12)=O | C11H11NO2
reactant | methyl iodide | 7.8 mmol, 1.1 g | CI | CH3I
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (1-methyl-1H-indol-3-yl)-acetic acid methyl ester | 100 mg, 19% | COC(CC1=CN(C2=CC=CC=C12)C)=O | C12H13NO2
